US08895761B2
2,2,6,6-Tetramethylcyclohexane-1,3,5-trione (5 g, 0.027 mol) and 4-dimethylamino-pyridine (16.47 g, 0.135 mol) are added to a mixture of chloroform (100 ml) and toluene (25 ml). The reaction mixture is flushed with nitrogen for 15 minutes at ambient temperature. 4-Bromo-2-ethylphenyllead triacetate (17.16 g, 0.03 mol) is added in one portion and the reaction mixture is stirred and heated to 80° C. (pre-heated oil bath) under an atmosphere of nitrogen for 1 hour. The reaction mixture is cooled to room temperature, acidified to pH 1 with 2N aqueous hydrochloric acid, filtered through a plug of diatomaceous earth and the two phases are separated. The organic phase is collected, and the aqueous phase is extracted with dichloromethane (2×75 ml). the organic phases are combined, washed with water, and dried over anhydrous sodium sulfate. The mixture is filtered, and the filtrate is evaporated under reduced pressure. The residue is purified by column chromatography on silica gel to give 4-(4-bromo-2-ethylphenyl)-2,2,6,6-tetramethyl-cyclohexane-1,3,5-trione as a white solid (3.5 g).

reactant | 2,2,6,6-Tetramethylcyclohexane-1,3,5-trione | 0.027 mol, 5 g | CC1(C(C(C(CC1=O)=O)(C)C)=O)C | C10H14O3
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 4-Bromo-2-ethylphenyllead triacetate | 0.03 mol, 17.16 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].BrC1=CC(=C(C=C1)[Pb+3])CC
reactant | hydrochloric acid | 2N | Cl | ClH
catalyst | 4-dimethylamino-pyridine | 0.135 mol, 16.47 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(4-bromo-2-ethylphenyl)-2,2,6,6-tetramethyl-cyclohexane-1,3,5-trione | 3.5 g | BrC1=CC(=C(C=C1)C1C(C(C(C(C1=O)(C)C)=O)(C)C)=O)CC | C18H21BrO3
